* sg13g2_IOPadOut30mA
.subckt sg13g2_IOPadOut30mA vss vdd iovss iovdd c2p pad


Xnclamp iovss iovdd pad ngate sg13g2_Clamp_N15N15D
Xpclamp iovss iovdd pad pgate sg13g2_Clamp_P15N15D
Xdcndiode iovss pad iovdd sg13g2_DCNDiode
Xdcpdiode pad iovdd iovss sg13g2_DCPDiode
Xgatelu vdd vss iovdd c2p ngate pgate sg13g2_GateLevelUpInv
.ends 
