** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/testio.sch
**.subckt testio
V6 net2 GND 0
V7 net1 GND 3.3
V8 net3 GND 0
V9 net4 GND 1.2
x1 net3 net4 net2 net1 out in sg13g2_IOPadIn
V1 in GND dc 0 ac 0 PULSE(0 1.2 0 10p 10p 0.05u 0.1u)
C1 out GND 500f m=1
**** begin user architecture code



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt




.include $PDK_ROOT/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.include $PDK_ROOT/ihp-sg13g2/libs.ref/sg13g2_io/spice/sg13g2_io.spi






.param temp=27
.control
save all
tran 1u 30u
write iopad.raw
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
