* sg13g2_IOPadVdd
.subckt sg13g2_IOPadVdd vss vdd iovss iovdd
Xnclamp iovss iovdd vdd ngate sg13g2_Clamp_N43N43D4R
Xrcres vdd res_cap sg13g2_RCClampResistor
Xrcinv vdd iovss res_cap ngate sg13g2_RCClampInverter
Xpad_guard iovss sg13g2_GuardRing_N16000W6624HFF
.ends sg13g2_IOPadVdd

