** sch_path: /home/userdata/k67D/duynk_67d/SAR_ADC_8BIT_IHP/xschem/T_gate.sch
.subckt T_gate !Control Vin Vout gnd Control vdd
*.iopin Vout
*.iopin Vin
*.iopin !Control
*.iopin Control
*.iopin gnd
*.iopin vdd
XM1 Vin Control Vout gnd sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2 Vin !Control Vout vdd sg13_lv_pmos w=2u l=0.13u ng=1 m=1
.ends T_gate

