** sch_path: /home/userdata/k67D/duynk_67d/SAR_ADC_8BIT_IHP/xschem/inverter.sch
.subckt inverter vdd vi vo gnd

XM5 vo vi vdd vdd sg13_lv_pmos w=800n l=130n ng=1 m=1
XM7 vo vi gnd gnd sg13_lv_nmos w=400n l=130n ng=1 m=1
.ends inverter

